US06544985B2
7-Dimethylamino-4-(3-[1,2,4]triazol-4-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from {5-dimethylamino-2-[3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester (Example M56) (280 mg, 0.526 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a yellow solid (121 mg).

reactant | {5-dimethylamino-2-[3-oxo-3-(3-[1,2,4]triazol-4-yl-phenyl)-propionylamino]-4-trifluoromethyl-phenyl}-carbamic acid tert.-butyl ester | 0.526 mmol, 280 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)C)C(F)(F)F)NC(CC(C1=CC(=CC=C1)N1C=NN=C1)=O)=O)=O | C25H27F3N6O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Dimethylamino-4-(3-[1,2,4]triazol-4-yl-phenyl)-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CN(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)N2C=NN=C2)=O)C=C1C(F)(F)F)C | C20H17F3N6O
